US08492378B2
2-(2,3-dihydro-1-benzofuran-5-ylcarbonyl)-N-(3-fluorobenzyl)hydrazinecarboxamide
A solution of 2,3-dihydro-1-benzofuran-5-carbohydrazide (0.50 g, 2.81 mmol) and 3-fluorobenzyl isocyanate (0.85 g, 5.61 mmol) in pyridine (5 mL) was stirred at room temperature for 3 days. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was washed with ethyl acetate to give the title compound (0.60 g, yield 65%) as colorless crystals.

reactant | 2,3-dihydro-1-benzofuran-5-carbohydrazide | 2.81 mmol, 0.50 g | O1CCC2=C1C=CC(=C2)C(=O)NN | C9H10N2O2
reactant | 3-fluorobenzyl isocyanate | 5.61 mmol, 0.85 g | FC=1C=C(CN=C=O)C=CC1 | C8H6FNO
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,3-dihydro-1-benzofuran-5-ylcarbonyl)-N-(3-fluorobenzyl)hydrazinecarboxamide | 0.60 g, yield 65% | O1CCC2=C1C=CC(=C2)C(=O)NNC(=O)NCC2=CC(=CC=C2)F | C17H16FN3O3
